US03931268
7.4 g. of methyl urea, 46.7 g. of 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzoyl chloride, 8 g. of pyridine and 200 ml. of benzene were mixed and refluxed for 8 hours. After cooling down, the mixture was poured onto water and extracted with an ether/methylene chloride mixture. The extract was washed with water, with 1 N hydrochloric acid and again with water, dried over sodium sulfate and freed of the solvent by distillation. The residue crystallized upon triturating with methanol. The crystals were filtered off and dried, yielding 1-methyl-2-[4-(4-methyl-allophanoyl)-benzyl]-1,2-dicarbobenzoxy-hydrazine melting at 141°-142°. 25 g. thereof were dissolved in 50 ml. of glacial acetic acid and to it were added 100 ml. of a 33% solution of hydrobromic acid in glacial acetic acid. After 4 hours standing, the crystals formed were filtered off, washed with glacial acetic acid and ether, and recrystallized from methanol, yielding 1-methyl-2-[4-(4-methyl-allphanoyl)benzyl]-hydrazine hydrobromide of melting point 183°-183.5°.

reactant | methyl urea | CNC(=O)N | C2H6N2O
reactant | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzoyl chloride | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)Cl)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23ClN2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-2-[4-(4-methyl-allophanoyl)-benzyl]-1,2-dicarbobenzoxy-hydrazine | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C(NC(=O)NC)=O)C(=O)OCC1=CC=CC=C1 | C27H28N4O6
